US06020340
6. 2-[7-Difluoromethoxy-2-(1-methylethyl)benzofuran-4-yl]imidazo[4,5-c]pyridine
1.8 g of N-(3-aminopyrid-4-yl)-7-difluoromethoxy-2-(1-methylethyl)benzofuran-4carboxamide are boiled with 4.0 g of p-toluenesulfonic acid in 50 ml of toluene for 3 h in a water separator. The cooled solution is extracted by shaking with 50 ml of 2 N sodium hydroxide solution, the separated aqueous phase is extracted a further two times with 50 ml of ethyl acetate each time, and the organic phases are combined, dried over ignited potassium carbonate and concentrated in vacuo. The residue is crystallized from ethanol/water. 1.7 g (100% of theory) of the title compound of m.p. 201° C. are obtained.

reactant | N-(3-aminopyrid-4-yl)-7-difluoromethoxy-2-(1-methylethyl)benzofuran-4carboxamide | 1.8 g | NC=1C=NC=CC1NC(=O)C=1C=CC(=C2C1C=C(O2)C(C)C)OC(F)F | C18H17F2N3O3
reactant | p-toluenesulfonic acid | 4.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[7-Difluoromethoxy-2-(1-methylethyl)benzofuran-4-yl]imidazo[4,5-c]pyridine | FC(OC1=CC=C(C=2C=C(OC21)C(C)C)C=2NC1=C(C=NC=C1)N2)F | C18H15F2N3O2
